US06586617B1
Synthesis of 2′,4-Dichloro-3,4′-dinitro-N-methoxybenzenesulfonanilide (Compound No. 531)
To a solution of 4-chloro-N-methoxy-3-nitrobenzenesulfonamide (0.53 g (1.99 mmol)) and 3-chloro-4-fluoronitrobenzene (1.05 g (5.98 mmol) in 5.0 ml of DMF, sodium hydride (60%, 0.09 g (2.25 mmol)) was added bit by bit with stirring under cooling with ice, and the mixture was stirred under cooling with ice for one hour and at room temperature for 2 hours. Water and diethyl ether were added to the resulting mixture and insolubles were removed by filtration. The filtrate was allowed to stand somewhile and then, the organic layer was separated and washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:5) as eluent to give 0.10 g (12%) of the title compound as pale yellow-white crystals.

reactant | 4-chloro-N-methoxy-3-nitrobenzenesulfonamide | 1.99 mmol, 0.53 g | ClC1=C(C=C(C=C1)S(=O)(=O)NOC)[N+](=O)[O-] | C7H7ClN2O5S
reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2′,4-Dichloro-3,4′-dinitro-N-methoxybenzenesulfonanilide | 0.10 g, 12% | ClC1=C(N(S(=O)(=O)C2=CC(=C(C=C2)Cl)[N+](=O)[O-])OC)C=CC(=C1)[N+](=O)[O-] | C13H9Cl2N3O7S
